US09108936B2
To a solution of 4-bromo-2-fluoro-6-methoxy-benzaldehyde (3.4 g, 14.6 mmol) in tert-butanol (70 ml) and water (35 ml), sodium chlorite (2.64 g, 29.2 mmol), monosodium phosphate dihydrate (11.4 g, 72.9 mmol) and 2-methyl-2-butene (12.4 ml, 116.7 mmol) are added successively at room temperature and the mixture is stirred for 2 h. After completion of the reaction (monitored by TLC), the mixture is concentrated under reduced pressure and the residue is diluted with ice water (50 ml) and acidified to pH 5 by adding 2N hydrochloric acid. The mixture is extracted with methyl tert-butyl ether (2×100 ml). The methyl tert-butyl ether layer is extracted again with 10% aqueous sodium hydroxide (100 ml). The aqueous layer is acidified to pH 2 with 5N hydrochloric acid and extracted with dichloromethane (2×50 ml). The organic layer is washed with brine (50 ml), dried over sodium sulfate and evaporated to dryness to obtain 4-bromo-2-fluoro-6-methoxy-benzoic acid (2.5 g, 10.0 mmol, 68%).

reactant | 4-bromo-2-fluoro-6-methoxy-benzaldehyde | 14.6 mmol, 3.4 g | BrC1=CC(=C(C=O)C(=C1)OC)F | C8H6BrFO2
reactant | sodium chlorite | 29.2 mmol, 2.64 g | Cl(=O)[O-].[Na+]
reactant | monosodium phosphate dihydrate | 72.9 mmol, 11.4 g | O.O.P(=O)([O-])(O)O.[Na+]
reactant | 2-methyl-2-butene | 116.7 mmol, 12.4 ml | CC(C)=CC | C5H10
solvent | tert-butanol | 70 ml | C(C)(C)(C)O | C4H10O
solvent | water | 35 ml | O | H2O
product | 4-bromo-2-fluoro-6-methoxy-benzoic acid | 10.0 mmol, 2.5 g, 68% | BrC1=CC(=C(C(=O)O)C(=C1)OC)F | C8H6BrFO3
